US09227971B2
NBS (64 mg, 0.36 mmol) was added to a solution of tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (249 mg, 0.33 mmol) in DMF (6 mL). After stirring at room temperature for 1 h, the mixture was diluted with H2O and then extracted with ethyl acetate (×2). The combined organic layers were washed with brine and dried with Na2SO4. Evaporation and purification by column chromatography afforded tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate: LCMS tR=3.66 Min (5 min run, UV254nm). Mass calculated for M+H 836.3, observed m/z 836.06 (M+H).

reactant | NBS | 0.36 mmol, 64 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 0.33 mmol, 249 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)N2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C40H59N7O4Si2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)N2CC1CCC(C2)N1C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C40H58BrN7O4Si2
